* BFG10W_X SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT343X DIE MODEL : BLT10
* 1: COLLECTOR; 2: BASE; 3: EMITTER
.SUBCKT BFG10W_X 1 2 3
Q1 6 5 7 7 BLT10
* SOT343X parasitic model
               Lb  4 5 .4n
               Le  7 8 .4n
               L1  2 4 .34n
               L2  1 6 .1n
               L3  3 8 .25n
              Ccb  4 6 50f
              Cbe  4 8 70f
*
* PHILIPS SEMICONDUCTORS                                 Version:         3.0
* Filename:    BLT10.PRM                                 Date: September 1993
*
.MODEL  BLT10   NPN
+(
+              IS = 2.71400E-015
+              BF = 1.02800E+002
+              NF = 9.97900E-001
+             VAF = 2.81200E+001
+             IKF = 6.00900E+001
+             ISE = 4.03200E-010
+              NE = 2.93700E+000
+              BR = 3.10100E+001
+              NR = 9.99710E-001
+             VAR = 2.88900E+000
+             IKR = 2.84200E-001
+             ISC = 1.48700E-015
+              NC = 1.10000E+000
+              RB = 3.50000E+000
+             IRB = 1.00000E-006
+             RBM = 3.50000E+000
+              RE = 2.17500E-001
+              RC = 1.96700E-001
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 5.12500E-012
+             VJE = 6.00000E-001
+             MJE = 3.67700E-001
+              TF = 1.20700E-011
+             XTF = 9.94000E+001
+             VTF = 7.22000E+000
+             ITF = 3.95000E+000
+             CJC = 2.32700E-012
+             VJC = 6.68200E-001
+             MJC = 3.98300E-001
+)
.ENDS